US05888940
3-[4-Chloro-6-fluoro-2-propoxybenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound I.8)
108 ml of absolute n-propanol were added dropwise at room temperature to 1.1 g of sodium hydride (97% strength) in 40 ml of absolute tetrahydrofuran. Stirring was carried out for 30 minutes, after which 7.0 g of 3-[2,4-dichloro-6-fluorobenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione (compound I.4) were slowly added. Stirring was carried out for 12 hours, after which the solvent was distilled off at reduced pressure and the residue was then taken up in water. 10% strength hydrochloric acid was added to the aqueous phase until the resulting pH was from 3 to 4. The precipitate formed was separated off, washed with water and then dried. Yield: 5.2 g.

reactant | n-propanol | 108 ml | C(CC)O | C3H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-[2,4-dichloro-6-fluorobenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 7.0 g | ClC=1SC2=C(N1)C(=CC(=C2N2C(NC(=CC2=O)C(F)(F)F)=O)F)Cl | C12H3Cl2F4N3O2S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-[4-Chloro-6-fluoro-2-propoxybenzothiazol-7-yl]-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C2=C1N=C(S2)OCCC)N2C(NC(=CC2=O)C(F)(F)F)=O)F | C15H10ClF4N3O3S
